US07253286B2
4-Chloro-7-methoxy-quinoline-6-carboxylic acid dimethylamide
After dissolving 7-methoxy-4-chloro-quinoline-6-carbonyl chloride synthesized by the method of Production Example 152-2 from 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid (1.0 g) in tetrahydrofuran (60 ml), the solution was cooled to 0° C. Diisopropylethylamine (1.6 ml) and a 2.0 M dimethylamine tetrahydrofuran solution (3 ml) were added and the mixture was stirred overnight at room temperature. Water was added, extraction was performed 3 times with ethyl acetate, and the organic layers were combined, washed with water and saturated brine, dried over sodium sulfate and then dried under reduced pressure to obtain the title compound (933 mg).

reactant | 7-methoxy-4-chloro-quinoline-6-carbonyl chloride | COC1=C(C=C2C(=CC=NC2=C1)Cl)C(=O)Cl | C11H7Cl2NO2
reactant | 7-methoxy-4-oxo-1,4-dihydroquinoline-6-carboxylic acid | 1.0 g | COC1=C(C=C2C(C=CNC2=C1)=O)C(=O)O | C11H9NO4
reactant | Diisopropylethylamine | 1.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine tetrahydrofuran | 2.0 M, 3 ml | O1CCCC1.CNC
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-Chloro-7-methoxy-quinoline-6-carboxylic acid dimethylamide | 933 mg | CN(C(=O)C=1C=C2C(=CC=NC2=CC1OC)Cl)C | C13H13ClN2O2
